US07276607B2
Step 2. cis-1-[(tert-Butyloxycarbonyl)methylamino]-3-(4-methylpiperidin -1-yl)cyclopentane hydrochloride
Sodium triacetoxyborohydride (3.37 g, 15.9 mmol) was added to a solution of 3-[(tert-butyloxycarbonyl)methylamino]cyclopentan-1-one (2.42 g, 11.3 mmol), 4-methylpiperidine (1.2 ml, 10 mmol) and acetic acid (0.65 ml, 11 mmol) in 1,2-dichloroethane (40 ml). The resulting mixture was stirred at room temperature overnight (22 h). 1M Aqueous sodium hydroxide (100 ml) was added and the mixture extracted with dichloromethane (2×40 ml). The combined extracts were dried (MgSO4) and evaporated. The residue was dissolved in diethyl ether (40 ml) and treated with 1M hydrogen chloride in diethyl ether (10 ml, 10 mmol) to give a precipitate. The solid was collected under suction, washed with diethyl ether then isohexane and dried in vacuo (2.89 g). A portion of this solid (1.764 g) was recrystallized from methanol-ethyl acetate to afford the title product (0.7203 g, 35%) as a white solid; δH (400 MHz, CD3OD) 1.02 (3H, d, J 6.7 Hz), 1.39-1.41 (2H, m), 1.46 (9H, s), 1.71 (1H, m), 1.83-1.98 (6H, m), 2.14 (1H, m), 2.27 (1H, m), 2.82 (3H, s), 2.93 (2H, m), 3.50 (1H, m), 3.59 (2H, m), 4.44 (1H, m); m/z (ES+) 297 ([M+H]+), 241 (100%).

reactant | Sodium triacetoxyborohydride | 15.9 mmol, 3.37 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-[(tert-butyloxycarbonyl)methylamino]cyclopentan-1-one | 11.3 mmol, 2.42 g | C(C)(C)(C)OC(=O)CNC1CC(CC1)=O | C11H19NO3
reactant | 4-methylpiperidine | 10 mmol, 1.2 ml | CC1CCNCC1 | C6H13N
reactant | acetic acid | 11 mmol, 0.65 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1M, 100 ml | [OH-].[Na+]
reactant | hydrogen chloride | 1M | Cl | ClH
reactant | diethyl ether | 10 mmol, 10 ml | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | cis-1-[(tert-Butyloxycarbonyl)methylamino]-3-(4-methylpiperidin -1-yl)cyclopentane hydrochloride | 0.7203 g, 35% | Cl.C(C)(C)(C)OC(=O)CN[C@@H]1C[C@@H](CC1)N1CCC(CC1)C | InChI=1S/C17H32N2O2.ClH/c1-13-7-9-19(10-8-13)15-6-5-14(11-15)18-12-16(20)21-17(2,3)4;/h13-15,18H,5-12H2,1-4H3;1H/t14-,15+;/m0./s1
